US07585880B2
N-(3-methylbutyl)-4-[4-(trifluoromethyl)phenyl]-1,3-thiazole-2-amine
A solution of N-(3-methylbutyl)thiourea (3.00 g, 20.5 mmol), 2-bromo-1-[4-(trifluoromethyl)phenyl]ethanone (5.45 g, 20.5 mmol) and sodium acetate (2.19 g, 26.7 mmol) in ethanol (50 mL) was stirred at 90° C. for 4 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained solid was recrystallized from dichloromethane-hexane to give the title compound (1.76 g, yield 74%) as pale-yellow crystals.

reactant | N-(3-methylbutyl)thiourea | 20.5 mmol, 3.00 g | CC(CCNC(=S)N)C | C6H14N2S
reactant | 2-bromo-1-[4-(trifluoromethyl)phenyl]ethanone | 20.5 mmol, 5.45 g | BrCC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H6BrF3O
reactant | sodium acetate | 26.7 mmol, 2.19 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N-(3-methylbutyl)-4-[4-(trifluoromethyl)phenyl]-1,3-thiazole-2-amine | 1.76 g, yield 74% | CC(CCNC=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F)C | C15H17F3N2S
